Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Status post left thyroid lobectomy with follicular thyroid 
carcinoma.

 
Major Surgical or Invasive Procedure:
Completion right thyroidectomy.

 
History of Present Illness:
This elderly patient has undergone resection of a very large 
left substernal goiter last year and the pathology showed widely 
invasive follicular carcinoma, and completion was recommended.

 
Past Medical History:
PMH:- Toxic multinodular goiter causing tracheal stenosis and 
deviation,Mild mitral regurg, moderate pulm HTN,HLD,DM2
,Paroxysmal afib on lovenox, DVT L arm ___ now on lovenox, 
pulm embolism in ___ s/p lower extremity bypass 
graft, COPD,Gout,Prior stroke, possibly with neurogenic bladder 
now s/p suprapubic catheter,ongoing tobacco use as of ___

 
Social History:
___
Family History:
Mother, aunt, and uncle all had CHF, unknown cause; no known hx 
of CAD in her family. Daughter with heart arrhythmia 
 
Physical Exam:
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
Neck incision w/ staples c/d/I, no erythema/ecchymosis or 
drainage
CV: RRR, No M/G/R
PULM: clear to auscultation b/l, No W/R/R
ABD: soft, nondistended, nontender, no rebound or guarding
GU: suprapubic catheter w/clear yellow urine 
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ 06:50AM BLOOD WBC-10.1* RBC-4.46 Hgb-11.2 Hct-36.8 
MCV-83 MCH-25.1* MCHC-30.4* RDW-15.0 RDWSD-45.5 Plt ___
___ 06:50AM BLOOD Glucose-93 UreaN-20 Creat-0.8 Na-140 
K-4.2 Cl-101 HCO3-27 AnGap-16
___ 06:50AM BLOOD Calcium-8.7 Phos-4.2 Mg-1.8
 
Brief Hospital Course:
Ms. ___ is a ___ F with hx of multinodular goiter and 
follicular thyroid carcinoma s/p prior left thyroid lobectomy 
and resection of medial aspect of right lobe now s/p complete 
right thyroidectomy. Surgery was uncomplicated; reader is 
referred to operative report for details of surgery. She was 
admitted overnight for observation.

Following admission her calcium level was monitored and was 
found to be appropriate. Postoperatively she had adequate urine 
output via her suprapubic catheter. Her diet was advanced and 
well tolerated. She ambulated and was able to achieve adequate 
pain control on oral medications. Her surgical site remained 
c/d/I and without evidence of hematoma or drainage. Once she met 
the appropriate criteria she was discharged home on POD1 with 
scheduled follow up with Dr. ___ postoperative care. 
Additionally, thyroid hormone replacement, calcium and vitamin D 
supplementation were added to her medication regimen, as well as 
pain medication. 
In regards to her anticoagulation for h/o Afib/DVT, which was 
held ___ patient has been instructed to restart 
Lovenox on ___. She was discharged home on POD 1, with 
detailed follow-up instructions and verbalized good 
understanding.
 
Medications on Admission:
Medications:
- Amlodipine 5 mg PO DAILY 
- Atorvastatin 40 mg PO QPM 
- Lisinopril 15 mg PO DAILY 
- Aspirin 81 mg PO DAILY 
- Enoxaparin Sodium 80 mg SC QD 
- HCTZ 12.5mg daily
- Methimazole 1.25mg daily
- Metoprolol XR 25 qdaily
- Ferrous sulfate 325 daily
- MVI daily
- Calcium 500 + D 500 mg (1,250 mg)-200 unit tablet

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  Calcitriol 0.25 mcg PO DAILY 
RX *calcitriol 0.25 mcg 1 capsule(s) by mouth once a day Disp 
#*10 Capsule Refills:*0 
3.  Levothyroxine Sodium 112 mcg PO DAILY 
RX *levothyroxine 112 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*3 
4.  Os-Cal 500 + D3 (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral QID  
5.  amLODIPine 5 mg PO DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 40 mg PO QPM  
8.  Docusate Sodium 100 mg PO BID  
9.  Enoxaparin Sodium 80 mg SC DAILY 
Start: Tomorrow - ___, First Dose: First Routine 
Administration Time  
10.  Ferrous Sulfate 325 mg PO DAILY  
11.  Hydrochlorothiazide 12.5 mg PO DAILY  
12.  Lisinopril 15 mg PO DAILY  
13.  Metoprolol Succinate XL 25 mg PO DAILY  
14.  Multivitamins 1 TAB PO DAILY  
15.  Senna 17.2 mg PO HS  
16.  Vitamin D 200 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Status post left thyroid lobectomy with follicular thyroid 
carcinoma.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure being involved in your care at ___.
  
You were admitted to the inpatient general surgery unit after 
your completion thyroidectomy. You have adequate pain control 
and have tolerated a regular diet and may return home to 
continue your recovery. 
You will be discharged home on thyroid hormone replacement, 
calcium and vitamin D supplement, please take as prescribed. For 
your calcium supplement please purchase Oscal(chewable tablets 
are acceptable) over the counter at the pharmacy and take 1 
tablet FOUR times a day. Please go to any ___ lab 
on ___ Before 12:00 pm, and have your calcium level 
drawn. If there is a need to change your calcium dosage your 
endocrinologist will give you further instructions. 
Please monitor for signs and symptoms of low Calcium such as 
numbness or tingling around mouth/fingertips or muscle cramps in 
your legs. If you experience any of these signs or symptoms 
please call Dr. ___ for advice or if you have 
severe symptoms go to the emergency room. 
Please restart your LOVENOX on THURS ___ as prescribed. You 
may restart all regular home medications, and take any new 
medications as prescribed. You will be given a prescription for 
narcotic pain medication, take as prescribed.  You may take 
acetaminophen (Tylenol) as directed, but do not exceed 3000 mg 
in one day. Please get plenty of rest, continue to walk several 
times per day, and drink adequate amounts of fluids. 
Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site. You may shower and wash incisions with a mild 
soap and warm water. Avoid swimming and baths until cleared by 
your surgeon. Gently pat the area dry. Your neck incision has 
been closed with staples, please call the office and schedule an 
appointment for staples to be removed by ___.
Thank you for allowing us to participate in your care.

Your ___ care Team

 
Followup Instructions:
___